US09212182B2
A vial was charged with 1-(4-bromo-5-fluoro-2-methoxyphenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide (0.100 g, 0.202 mmol) and PdCl2(dppf)-CH2Cl2 (0.017 g, 0.020 mmol). The vial was flushed with Ar (g), then THF (1.012 ml) and neopentylzinc bromide, 0.5 M in THF (1.5 ml, 0.750 mmol) were added. The reaction was heated to 70° C. and stirred for one hour. The reaction was purified via column chromatography (RediSep Gold 40 g, gradient elution 10-75% [3:1 EtOAc/EtOH]:Heptane) to afford 1-(5-fluoro-2-methoxy-4-neopentylphenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide (0.024 g, 0.049 mmol, 24.43% yield) as a tan solid. 1H NMR (400 MHz, DMSO-d6) δ=11.66 (s, 1 H), 8.72 (d, J=1.8 Hz, 1 H), 8.35 (d, J=2.2 Hz, 1 H), 8.21 (d, J=9.6 Hz, 1 H), 7.85 (dd, J=2.2, 9.0 Hz, 1 H), 7.29 (d, J=9.5 Hz, 1 H), 7.10 (d, J=6.6 Hz, 1 H), 6.77 (t, J=9.8 Hz, 2 H), 6.44 (d, J=1.8 Hz, 1 H), 3.64 (s, 3 H), 2.62 (s, 2 H), 0.99 (s, 9 H). m/z (ESI) 486.2 (M+H)+.

reactant | 1-(4-bromo-5-fluoro-2-methoxyphenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide | 0.202 mmol, 0.100 g | BrC1=CC(=C(C=C1F)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)NC1=NOC=C1)=O)OC | C19H13BrFN3O5S
reactant | neopentylzinc bromide | [Br-].C(C(C)(C)C)[Zn+]
catalyst | PdCl2(dppf) CH2Cl2 | 0.020 mmol, 0.017 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
solvent | THF | 1.012 ml | C1CCOC1 | C4H8O
solvent | THF | 0.750 mmol, 1.5 ml | C1CCOC1 | C4H8O
product | 1-(5-fluoro-2-methoxy-4-neopentylphenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide | 0.049 mmol, 0.024 g, 24.43% yield | FC=1C(=CC(=C(C1)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)NC1=NOC=C1)=O)OC)CC(C)(C)C | C24H24FN3O5S
